### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/QuadraticForm/Basic): more lemmas

### PR DESCRIPTION
**Pull request by eric-wieser**
This also adds a handful of missing lemmas about `Set.center` for inverses and numeric literals.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/QuadraticForm/Basic.lean [hunk 1]
```diff
@@ -792,6 +798,11 @@ theorem associated_apply (x y : M) : associatedHom S Q x y = ⅟ 2 * (Q (x + y)
   rfl
 #align quadratic_form.associated_apply QuadraticForm.associated_apply
 
+theorem two_nsmul_associated : 2 • associatedHom S Q = Q.polarBilin := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/QuadraticForm/Basic.lean:801]:
```suggestion
@[simp] theorem two_nsmul_associated : 2 • associatedHom S Q = Q.polarBilin := by
```

File: Mathlib/LinearAlgebra/QuadraticForm/TensorProduct.lean [hunk 2]
```diff
@@ -79,12 +86,19 @@ theorem baseChange_tmul (Q : QuadraticForm R M₂) (a : A) (m₂ : M₂) :
...
 theorem associated_baseChange [Invertible (2 : A)] (Q : QuadraticForm R M₂)  :
     associated (R₁ := A) (Q.baseChange A) = (associated (R₁ := R) Q).baseChange A := by
   dsimp only [QuadraticForm.baseChange, BilinForm.baseChange]
   rw [associated_tmul (QuadraticForm.sq (R := A)) Q, associated_sq]
 
+theorem polarBilin_baseChange [Invertible (2 : A)] (Q : QuadraticForm R M₂)  :
+    polarBilin (Q.baseChange A) = (polarBilin Q).baseChange A := by
+  rw [QuadraticForm.baseChange, BilinForm.baseChange, polarBilin_tmul, BilinForm.tmul,
+    ←LinearMap.map_smul, smul_tmul', ←two_nsmul_associated R]
+  erw [associated_sq]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/QuadraticForm/TensorProduct.lean:98]: How about adding something like:
```lean
lemma associatedHom_apply {R M S : Type*} [CommRing R]
    [AddCommGroup M] [Module R M] [CommRing S] [Algebra S R] [Invertible (2 : R)]
    (Q : QuadraticForm R M) :
    associatedHom S Q = associated Q := by
  rfl
```
just below the definition of `associated` and using it to avoid the `erw` (so that this whole proof just becomes one giant chain of `rw`s).

**Review by ocfnash — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/LinearAlgebra/QuadraticForm/TensorProduct.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/QuadraticForm/TensorProduct.lean]: This `associatedHom` thing is a mess that I was considering cleaning up another time. I think the canonical spelling should be an unbundled one, with the hom available if needed.

**Comment by eric-wieser** [comment]
bors merge
